US06949648B2
4-Ethoxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline
To an ice-cold solution of 3-methyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one (2.76 g, 10 mmol) in N,N-dimethylformamide (30 mL) was added sodium hydride (oiliness, content 60%, 0.48 g, 12 mmol), and the mixture was stirred at room temperature for 1 hour. Subsequently, iodoethane (1.96 mL, 24.5 mmol) was added to the mixture and the mixture was stirred at room temperature further for 16 hours. Ice water was added to the mixture, and the organic matter was extracted with ethyl acetate. The extract was washed with saturated brine and water, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by basic silica gel column chromatography (hexane:ethyl acetate:chloroform=3:1:1) to give the title compound (1.02 g, 34% yield).

reactant | 3-methyl-1-(2-pyridinyl)-1,9-dihydro-4H-pyrazolo[3,4-b]quinolin-4-one | 10 mmol, 2.76 g | CC1=NN(C=2NC3=CC=CC=C3C(C21)=O)C2=NC=CC=C2 | C16H12N4O
reactant | sodium hydride | 12 mmol, 0.48 g | [H-].[Na+]
reactant | iodoethane | 24.5 mmol, 1.96 mL | ICC | C2H5I
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 4-Ethoxy-3-methyl-1-(2-pyridinyl)-1H-pyrazolo[3,4-b]quinoline | 1.02 g, 34% yield | C(C)OC1=C2C(=NC3=CC=CC=C13)N(N=C2C)C2=NC=CC=C2 | C18H16N4O
